* SPICE export by:      S-Edit 2022.2.3
* Export time:          Fri Dec  1 20:50:36 2023
* Design path:          /home/vlsi/Desktop/GROUP__1_PROJECT/lib.defs
* Library:              GROUP__1_PROJECT
* Cell:                 XOR
* Testbench:            Spice
* View:                 schematic
* Export as:            subcircuit definition
* Export mode:          hierarchical
* Exclude empty:        no
* Exclude .model:       no
* Exclude .hdl:         no
* Exclude .end:         no
* Expand paths:         no
* Wrap lines:           no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits ***************
.subckt XOR A B Out Gnd Vdd 
* Library name: GROUP__1_PROJECT
* Cell name: XOR
* View name: schematic
* PORT=Out TYPE=Out
* PORT=A TYPE=In
* PORT=Gnd TYPE=Other
* PORT=Vdd TYPE=Other
* PORT=B TYPE=In

MMn1 Out A N_1 Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4600 $y=3300 $w=400 $h=600
MMn2 Out N_1 A Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=6700 $y=3400 $w=600 $h=400 $r=270
MMn3 N_1 B Gnd Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=8500 $y=4900 $w=400 $h=600
MMp1 Out A B Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4600 $y=4300 $w=400 $h=600
MMp2 Out B A Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=6700 $y=4800 $w=600 $h=400 $r=90
MMp3 N_1 B Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=8500 $y=5900 $w=400 $h=600
.ends



